US07427632B2
3-Chloro-N-[4-(1-isopropylpiperidin-4-yl)-1-phenylbutyl]-1H-indole-6-carboxamide
Using coupling method A, crude 4-(1-isopropylpiperidin-4-yl)-1-phenylbutylamine hydrochloride (0.70 mmol) and 3-chloroindole-6-carboxylic acid (162 mg, 0.83 mmol) afforded, after purification (SiO2: 10:10:1 hexane:EtOAc:isopropylamine), 66 mg (13%) of the title compound.

reactant | 4-(1-isopropylpiperidin-4-yl)-1-phenylbutylamine hydrochloride | 0.70 mmol | Cl.C(C)(C)N1CCC(CC1)CCCC(C1=CC=CC=C1)N
reactant | 3-chloroindole-6-carboxylic acid | 0.83 mmol, 162 mg | ClC1=CNC2=CC(=CC=C12)C(=O)O | C9H6ClNO2
product | 3-Chloro-N-[4-(1-isopropylpiperidin-4-yl)-1-phenylbutyl]-1H-indole-6-carboxamide | ClC1=CNC2=CC(=CC=C12)C(=O)NC(CCCC1CCN(CC1)C(C)C)C1=CC=CC=C1 | C27H34ClN3O
